US05149357
To a stirred solution of 2.0 grams (0.007 mole) of 6-chloro-2-[ethoxy(thiocarbonyl)thio]benzoic acid in 50 mL of methanol was added 30 ml of aqueous 10% sodium hydroxide. The reaction mixture was warmed to reflux where it stirred for about 18 hours. After this time the reaction mixture was cooled to ambient temperature and was acidified with concentrated hydrochloric acid. The mixture was extracted with ethyl acetate, and the extract was dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to yield 1.4 grams of 6-chloro-2-mercaptobenzoic acid. The nmr spectrum was consistent with the proposed structure.

reactant | 6-chloro-2-[ethoxy(thiocarbonyl)thio]benzoic acid | 0.007 mole, 2.0 grams | ClC1=CC=CC(=C1C(=O)O)SC(=S)OCC | C10H9ClO3S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 6-chloro-2-mercaptobenzoic acid | 1.4 grams | ClC1=CC=CC(=C1C(=O)O)S | C7H5ClO2S
